US08455477B2
3-iodo-4-methoxy-6-phenylpyrazolo[1,5-a]pyridine (25.0 mg, 0.071 mmol), sodium cyanide (7.0 mg, 0.14 mmol), tetrakis(triphenylphosphine)palladium (0) (4.1 mg, 0.004 mmol), and copper (I) iodide (1.4 mg, 0.007 mmol) were added to a dry flask. Acetonitrile (2 ml) was added and the mixture was sparged with argon for 3 minutes, then heated to 65° C. After 16 h, the reaction mixture cooled and purified by preparative HPLC Reverse phase (C-18), eluting with acetonitrile/water+0.05% TFA to give 4-methoxy-6-phenylpyrazolo[1,5-a]pyridine-3-carbonitrile. 1H NMR (600 MHz, DMSO-d6) δ 8.66 (d, 1H); 8.58 (s, 1H); 7.82 (d, 2H); 7.49 (d, 2H); 7.41 (m, 1H); 7.31 (s, 1H); 4.08 (s, 3H). LRMS (ESI) calculated for C15H12N3O [M+H]+, 250.1; found 250.0.

reactant | 3-iodo-4-methoxy-6-phenylpyrazolo[1,5-a]pyridine | 0.071 mmol, 25.0 mg | IC=1C=NN2C1C(=CC(=C2)C2=CC=CC=C2)OC | C14H11IN2O
reactant | sodium cyanide | 0.14 mmol, 7.0 mg | [C-]#N.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.004 mmol, 4.1 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | copper (I) iodide | 0.007 mmol, 1.4 mg | [Cu]I
solvent | Acetonitrile | 2 ml | C(C)#N | C2H3N
product | 4-methoxy-6-phenylpyrazolo[1,5-a]pyridine-3-carbonitrile | COC=1C=2N(C=C(C1)C1=CC=CC=C1)N=CC2C#N | C15H11N3O
